US05173493
A mixture of 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (2.0 g) and 10% palladium on carbon (0.4 g) in N,N-dimethylformamide-ethanol (6:1, 49 ml) was hydrogenated at an atmospheric pressure for 6 hours. After filtration of the catalyst, the filtrate was evaporated in vacuo to give 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one as an oil, which was used in the next reaction without purification.

reactant | 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 2.0 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)=CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H31N3O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | N,N-dimethylformamide ethanol | 49 ml | CN(C=O)C.C(C)O
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H33N3O
